* 30 GHz PA Standalone — Xyce (v4: true cascode, Nx=32 scaled up)
* ==============================================================================
* Fixes the destroyed cascode topology. The driver (CE) collector MUST connect
* directly to the cascode (CB) emitter.
* Scaled up to Nx=32 to hit the +10 dBm power target.
* ==============================================================================
.lib /tmp/ihp_sg13g2/libs.tech/xyce/models/cornerHBT.lib hbt_wcs
.lib /tmp/ihp_sg13g2/libs.tech/xyce/models/cornerRES.lib res_typ
.lib /tmp/ihp_sg13g2/libs.tech/xyce/models/cornerCAP.lib cap_typ

.options NONLIN MAXSTEP=200
.options DEVICE temp=-40

Vdd_pa vdd_pa 0 3.0

* Input: 30 GHz, 150mV peak
Vin_p in_ac_p 0 SIN(0 0.25 30G)
Vin_n in_ac_n 0 SIN(0 0.25 30G 0 0 180)

* === AC-coupled input + base bias ===
C_ac_in_n in_ac_n pa_in_n 1p
C_ac_in_p in_ac_p pa_in_p 1p

* Base bias for CE stage (target ~20-40mA for Nx=32)
R_b1_n vdd_pa pa_in_n 1k
R_b2_n pa_in_n 0 400
R_b1_p vdd_pa pa_in_p 1k
R_b2_p pa_in_p 0 400

* === CASCODE CE STAGE (Nx=32) ===
X_pa_ce_n pa_mid_n pa_in_n pa_emit 0 npn13G2 PARAMS: Nx=32
X_pa_ce_p pa_mid_p pa_in_p pa_emit 0 npn13G2 PARAMS: Nx=32

* Degeneration / Tail
R_tail pa_emit 0 2.5

* === CASCODE CB STAGE (Nx=32) ===
* CB Base bias: Needs to give CE enough headroom
* Vdd=3V. If CB base is at 1.8V, CB emitter is ~0.95V.
R_cb1 vdd_pa cbias 300
R_cb2 cbias 0 450
C_cb cbias 0 10p

* Cascode R-C Snubber (In-Band Stabilization)
R_snub_n pa_mid_n pa_snub_n 10
C_snub_n pa_snub_n 0 30f
R_snub_p pa_mid_p pa_snub_p 10
C_snub_p pa_snub_p 0 30f

X_pa_cb_n out_n cbias pa_mid_n 0 npn13G2 PARAMS: Nx=32
X_pa_cb_p out_p cbias pa_mid_p 0 npn13G2 PARAMS: Nx=32

* === OUTPUT NETWORK ===
.include ind_125pH_model.cir
X_load_n vdd_pa out_n 0 ind_125pH_model
X_load_p vdd_pa out_p 0 ind_125pH_model
C_res_n out_n 0 22f
C_res_p out_p 0 22f
R_ant_p out_p 0 50
R_ant_n out_n 0 50

* Near-DC Stabilization (Out-of-band loading)
R_out_stab_n out_n out_stab_n 20
C_out_stab_n out_stab_n 0 50p
R_out_stab_p out_p out_stab_p 20
C_out_stab_p out_stab_p 0 50p

* Analysis
.ic v(pa_in_n)=0.857 v(pa_in_p)=0.857 v(pa_emit)=0.05 v(cbias)=1.8
.ic v(pa_mid_n)=1.0 v(pa_mid_p)=1.0 v(out_n)=3.0 v(out_p)=3.0
.tran 0.5p 10n 0 0.5p UIC

.measure tran pa_vpp_p PP v(out_p) FROM=7n TO=10n
.measure tran pa_vpp_n PP v(out_n) FROM=7n TO=10n
.measure tran pa_vin_pp PP v(in_ac_p) FROM=7n TO=10n
.measure tran pa_idc AVG i(Vdd_pa) FROM=7n TO=10n
.measure tran mid_vpp PP v(pa_mid_n) FROM=7n TO=10n
.measure tran cbias_v AVG v(cbias) FROM=7n TO=10n

.print tran v(out_p) v(out_n) v(pa_mid_n) v(pa_mid_p) v(pa_in_n) v(pa_emit) v(cbias) i(Vdd_pa)

.end
